US08193228B2
4,4-Dimethyl-1-pentene (59 g, 0.6 mol) was added to a 10° C. suspension of nitrosonium tetrafluoroborate (66 g, 0.56 mmol) in acetonitrile (600 mL) After stirring vigorously at ambient temperature for 30 minutes, acetonitrile was removed in vacuo to afford 4-(2,2-dimethylpropyl)-2-methyl-1H-imidazol-1-ol which was used in the subsequent step without further purification.

reactant | 4,4-Dimethyl-1-pentene | 0.6 mol, 59 g | CC(CC=C)(C)C | C7H14
reactant | nitrosonium tetrafluoroborate | 0.56 mmol, 66 g | F[B-](F)(F)F.N#[O+]
reactant | acetonitrile | 600 mL | C(C)#N | C2H3N
product | 4-(2,2-dimethylpropyl)-2-methyl-1H-imidazol-1-ol | CC(CC=1N=C(N(C1)O)C)(C)C | C9H16N2O
